data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]CC1=CC=CO1)C.[OH-:10].C1=COC(=C1)CN.O>>[H:20][OH:10].CC(=O)C[CH:21]=[C:22](C)[NH:23]CC1=CC=CO1.C1=COC(=C1)CN.O 10=20;22,23=23;20,21=21,22
C[N:10](C)C.CO[C:20](=[O:21])Cl>>C[N+:10](C)(C)[C:20]([O-:21])(OC)Cl 10=20;20,21=21
[H:20][OH+:21]C1(C2=C(C=CC=C2)NC(=O)CN1)C3=NC=CC=C3.[OH2:10].[Cl-]>>[H:20][OH2+:10].C1C(=O)NC2=C(C=CC=C2)C(N1)(C3=NC=CC=C3)[OH:21].[Cl-] 10=20;20,21=21
CN(C)[P:10]1OC2=C(O1)C=CC=C2.C1=CC=C(C=C1)[N-][N+:21]#[N:20]>>CN(C)[P+:10]1(OC2=C(O1)C=CC=C2)[N:20]=[N:21][N-]C3=CC=CC=C3 10=20;20,21=21
CC[C:12]1=[C:13](C=C[C:10](=[CH:11]1)C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C)[O:14]C.C(=O)O>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC[C:12]1=[CH:11][C:10]2(C[CH2:20]2)C=C[C:13]1=[O+:14]C.C(=O)O 10,11=10,20;20,21=21;12,13=11,12;14=13
CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)[NH2:10].[N:20]#[O+:21].O.[O-]S(=O)(=O)[O-].[Na+]>>CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)[NH2+:10][N:20]=[O:21].O.[O-]S(=O)(=O)[O-].[Na+] 10=20;20,21=21
[H:20][O:21][P+:22](C)(C)C.[I-:10]>>[H:20][I:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
C1CC2=[N:10]CCCN2C1.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C1CC2=[N+:10](CCCN2C1)[CH2:20]C3=CC=C(C=C3)C#N.[Br-:21] 10=20;20,21=21
[H:20][CH2:21][S+](C)C.[Li][N:10](C)C>>[H:20][N+:10]([Li])(C)C.C[S+](C)[CH2-:21] 10=20;20,21=21
[H:20][OH+:21]C(C1=C(C=CC(=C1Br)OC)OC)OCCCO.[OH2:10].C1CCOC1.[Cl-]>>[H:20][OH2+:10].COC1=C(C(=C(C=C1)OC)Br)C([OH:21])OCCCO.C1CCOC1.[Cl-] 10=20;20,21=21
C[N+](C)(C)C[C:10](CC1=CC=CC=C1)([C:20]#[N:21])[C:11](=O)[O-:12].CI>>C[N+](C)(C)C[C:10](=[C:20]=[N-:21])CC1=CC=CC=C1.[C:11](=O)=[O:12].CI 10,11=10,20;20,21=21;12=11
C[C:11](N=[N+]=[N-])([O-:12])[O:10][P+:20](O)(OC)OC>>C[C:11](=[O:12])N=[N+]=[N-].CO[P:20](=[O:10])(O)OC 10,11=10,20;12=11
[CH3:20][O:21][P+:22](C)(C)C.[Cl-:10]>>C[P:22](=[O:21])(C)C.[CH3:20][Cl:10] 10=20;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)[O:21][C:20]23CCC(CC2)([CH:11]([CH2:10]3)[O-:12])C.CC(C)(C)O.[K+]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1(CC[C:20](=[CH2:10])CC1)[CH:11]=[O:12].CC(C)(C)O.[K+] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].COC1=C(C2=C(CC3C4(C2(CCN3CC=C)C=CCC4)O)C=C1)[O-:10].N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CC=C)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
[B-](OC(CC)C1CC=C[CH:10]([CH+:20]1)[Sn-:11](CCCC)(CCCC)(CCCC)[O+](CC)CC)(F)(F)F>>[B-](OC(CC)C1CC=C[CH:10]=[CH:20]1)(F)(F)F.CCCC[Sn:11](CCCC)(CCCC)[O+](CC)CC 10,11=10,20
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]C4=C(N=C5C=CC=CC5=C4)Cl.[Br-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC2=CC(=C(N=C2C=C1)Cl)[CH2:20][Br:10].C(Br)(Br)Br 10=20;20,21=21,22
[H:10][B-:11](OC(=O)C)(OC(=O)C)OC(=O)C.CN1C2CCC1C[C:20](=[NH+:21]CC3=CC=CC=C3)C2.[Na+]>>[H:10][C:20]1(CC2CCC(C1)N2C)[NH:21]CC3=CC=CC=C3.[B:11](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)COC1=CC=CC=C1.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)C(=O)OC(C4=CC=CC=C4)C5=CC=CC=C5>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)C(=O)OC(C4=CC=CC=C4)C5=CC=CC=C5)OCC.C1=CC=C(C=C1)OCC(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]=C.C[C:11](=[NH:10])[O:12][Si-](C)(C)(C)Cl>>[H:20][NH:10][C:11](=[O+:12][Si-](C)(C)(C)Cl)C.C=[O:21] 10,11=10,20;20,21=21;12=11
C1C2=C(C=CC=C2)C(=CCC[NH2+:21][C:20](=O)[O-:10])C3=C(O1)C=CC=C3.C=C(Cl)Cl.O.Cl[Zn+]>>C1C2=C(C=CC=C2)C(=CCC[NH2:21])C3=C(O1)C=CC=C3.[C:20](=O)=[O:10].C=C(Cl)Cl.O.Cl[Zn+] 10=20;20,21=21
[H:20][O:21]CC.CC1(C(=O)CCC1=O)C[CH:10]=[C:11](CCCC2=CC(=CC=C2)OC)[O-:12]>>[H:20][CH:10](CC1(C(=O)CCC1=O)C)[C:11](=[O:12])CCCC2=CC(=CC=C2)OC.CC[O-:21] 10,11=10,20;20,21=21;12=11
[CH:11]1=[CH:10]OC(=C1)C(F)(F)F.[Br:20][Br:21]>>C1=C(O[CH:10]([CH+:11]1)[Br:20])C(F)(F)F.[Br-:21] 10,11=10,20;20,21=21
C1CC2[CH:11]3[CH:10]2C1[CH+:20]3.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1CC2[CH:20]3[CH:10]2C1[CH+:11]3.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10,11=10,20
CCC[O+:11](C)[K:10]>>CCC[O:11]C.[K+:10] 10,11=11
[Li+:20].CC(C)[Si]([CH-:10]C#C[Si](C(C)C)(C(C)C)C(C)C)(C(C)C)C(C)C.CCCC>>[Li:20][CH:10](C#C[Si](C(C)C)(C(C)C)C(C)C)[Si](C(C)C)(C(C)C)C(C)C.CCCC 10=20,
[H:20][O:21]C(=O)C.CC1(C2CC1C(C(C2)(N)[OH:10])CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.[I-]>>[H:20][OH+:10]C1(CC2CC(C1CC(C(=O)C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C2(C)C)N.CC(=O)[O-:21].[I-] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CCO[S+](C)[CH2-:10]>>[H:20][CH2:10][S+](C)OCC.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][CH:21]1C=C([O+:23]=[C:22]1C2=CC=CC=C2)C.[OH2:10].OS(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=C[CH:21]=[C:22]([O:23]1)C2=CC=CC=C2.OS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C[N:12](C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH:11]=[N+:12](C)C.[OH2:21] 10,11=10,20;20,21=21;12=11
C[CH+:20]C.CC1=C[CH:11]=[CH:10]O1>>CC1=C[CH+:11][CH:10](O1)[CH:20](C)C 10,11=10,20
C[NH:10][CH:20](N)[OH+:21]C.[Cl-]>>C[NH+:10]=[CH:20]N.C[OH:21].[Cl-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CNC(=O)CCC(=[O:10])OC>>[H:20][O+:10]=C(CCC(=O)NC)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
